US08455665B2
(S)-3-[(R)-1-(2,4-Dichlorophenoxy)-2-ethoxyethyl]pyrrolidine
(S)-3-((R)-2-Ethoxy-1-hydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester (25.0 mg, 96.4 μmol) was dissolved in DMF (200 μL). NaH (2776 μg, 115.7 mmol) was added and the mixture was stirred at room temperature for 15 minutes. 2,4-Dichloro-1-fluorobenzene (22.6 μL, 192.8 μmol) was added and the mixture was stirred at 70° C. for 3 hours. The mixture was concentrated then dissolved in 1.2M HCl in EtOH (1.0 mL, 1.2 mmol) and stirred overnight. The product was concentrated and purified by preparative HPLC (10-40%, 60 min, BDS) to yield the title compound as a mono-TFA salt oil (24.4 mg, 100% purity). MS m/z: [M+H]+ calcd for C14H19Cl2NO2, 304.08. found 304.0.

reactant | (S)-3-((R)-2-Ethoxy-1-hydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 96.4 μmol, 25.0 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](COCC)O | C13H25NO4
reactant | NaH | 115.7 mmol, 2776 μg | [H-].[Na+]
reactant | 2,4-Dichloro-1-fluorobenzene | 192.8 μmol, 22.6 μL | ClC1=C(C=CC(=C1)Cl)F | C6H3Cl2F
reactant | EtOH | 1.2 mmol, 1.0 mL | CCO | C2H6O
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
solvent | HCl | 1.2M | Cl | ClH
product | (S)-3-[(R)-1-(2,4-Dichlorophenoxy)-2-ethoxyethyl]pyrrolidine | ClC1=C(O[C@@H](COCC)[C@@H]2CNCC2)C=CC(=C1)Cl | C14H19Cl2NO2
